US09101799B2
As a raw material, 1,4-bis(aminomethyl)cyclohexane (manufactured by Mitsubishi Gas Chemical Company, Inc.) having a trans-isomer/cis-isomer ratio of 93/7 determined by 13C-NMR was used to perform cold/hot two-stage phosgenation method under normal pressure. Specifically, a stirring rod, a thermometer, a phosgene inlet tube, a dropping funnel, and a condenser tube were attached to a flask, and the flask was charged with 400 parts by mass of ortho dichlorobenzene. While the flask was cooled with cold water, the temperature in the flask was lowered to 10° C. or below, and 280 parts by mass of phosgene was introduced thereinto from the phosgene inlet tube. The dropping funnel was charged with a mixed solution of 100 parts by mass of 1,4-bis(aminomethyl)cyclohexane and 500 parts by mass of ortho dichlorobenzene, and the mixed solution was added into the flask over 30 minutes. During this time, the temperature in the flask was maintained at 30° C. or below. After completion of the addition, a white slurry-like liquid was formed in the flask. Again, the reaction temperature was increased to 150° C. with introducing phosgene, and the reaction was continued at 150° C. for 5 hours. The reaction solution in the flask became a pale-brown transparent liquid. After completion of the reaction, nitrogen gas was introduced at a temperature of 100 to 150° C. at a flow rate of 10 L/hour for degassing. The ortho dichlorobenzene solvent was distilled away under reduced pressure and a fraction having a boiling point of 138 to 140° C./0.7 KPa was further sampled by vacuum distillation. Thus, 123 parts by mass (90% yield) of 1,4-bis(isocyanatomethyl)cyclohexane was obtained in the form of a colorless and transparent liquid. The resulting 1,4-bis(isocyanatomethyl)cyclohexane had a purity, which was determined by gas chromatography, of 99.9%, a hue of 5 in APHA, and a trans-isomer/cis-isomer ratio, which was determined by 13C-NMR, of 93/7. Hereinafter, 1,4-bis(isocyanatomethyl)cyclohexane having a trans-isomer/cis-isomer ratio of 93/7 is referred to as “BIC93”.

reactant | 1,4-bis(aminomethyl)cyclohexane | NCC1CCC(CC1)CN | C8H18N2
reactant | water | O | H2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | ortho dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,4-bis(isocyanatomethyl)cyclohexane | 90% yield | N(=C=O)CC1CCC(CC1)CN=C=O | C10H14N2O2
